US04241073
3-n-Butyl-5-(2,4,5-trimethoxybenzylidene) hydantoin
A mixture of 2,4,5-trimethoxybenzaldehyde (9.8 g; 0.05 mole), 3-n-butylhydantoin (7.8 g: 0.05 mole) and ethanolamine (4.6 g; 0.075 mole) in water/ethanol (50 ml/30 ml) was stirred and boiled under reflux for 3 hours. The cloudy solution was cooled in the refrigerator and the resultant yellow solid filtered off, washed with water, sucked dry and recrystallised from ethanol to give the title compound (14.5 g; 87%) m.p. 170° C.

reactant | 2,4,5-trimethoxybenzaldehyde | 0.05 mole, 9.8 g | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
reactant | 3-n-butylhydantoin | 0.05 mole, 7.8 g | C(CCC)N1C(NCC1=O)=O | C7H12N2O2
reactant | ethanolamine | 0.075 mole, 4.6 g | C(O)CN | C2H7NO
solvent | water ethanol | 50 ml | O.C(C)O
product | 3-n-Butyl-5-(2,4,5-trimethoxybenzylidene) hydantoin | 14.5 g, 87% | C(CCC)N1C(NC(C1=O)=CC1=C(C=C(C(=C1)OC)OC)OC)=O | C17H22N2O5
